US06340559B1
Preparation of Bis-(2-hydroxyethyl) dimethyl ammonium hydroxide
A two-liter three-necked flask equipped with a thermometer, magnetic stirrer, dry ice condenser, cooling bath, and nitrogen inlet was charged with about 267 grams of dimethylethanolamine (DMEA) and 330 grams of de-ionized water. About 128 grams of ethylene oxide was fed slowly through a feeding tube into the reaction mixture using moderate agitation, and the reaction temperature was maintained below 20° C. After the ethylene oxide addition was completed, the reaction was allowed to digest for an additional hour. The reaction mixture was then purged with nitrogen for one hour. The product is a clear and colorless solution. However, after about four days of standing at room temperature, the product darkened somewhat.

reactant | dry ice | C(=O)=O | CO2
reactant | dimethylethanolamine | about 267 grams | CN(CCO)C | C4H11NO
reactant | ethylene oxide | 128 grams | C1CO1 | C2H4O
solvent | water | 330 grams | O | H2O
product | Bis-(2-hydroxyethyl) dimethyl ammonium hydroxide | [OH-].OCC[N+](C)(C)CCO | InChI=1S/C6H16NO2.H2O/c1-7(2,3-5-8)4-6-9;/h8-9H,3-6H2,1-2H3;1H2/q+1;/p-1
